US07713994B2
4-Chloro-3-hydroxy-benzoyl chloride is cooled to 0° C. and 20 ml of ammonium hydroxide were added within 5 minutes. The mixture is allowed to stir at 0° C. for 30 minutes, then at room temperature for additional 30 minutes. 30 ml of water is added to the mixture and the white precipitate is filtered, the pH of the water layer is adjusted to 3, followed by extraction with ethyl acetate, dried over MgSO4 to give 4-chloro-3-hydroxy-benzamide as a white solid 850 mg (86% yield).

reactant | 4-Chloro-3-hydroxy-benzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)O | C7H4Cl2O2
reactant | ammonium hydroxide | 20 ml | [OH-].[NH4+]
solvent | water | 30 ml | O | H2O
product | 4-chloro-3-hydroxy-benzamide | 850 mg, 86% yield | ClC1=C(C=C(C(=O)N)C=C1)O | C7H6ClNO2
